US07456164B2
4-(4-{3-[(2R,5S)-2,5-dimethylpyrrolidin-1-yl]propoxy}-phenyl)-tetrahydro-2H-pyran-4-carbonitrile
A (1:3) mixture of 1-[4-(3-bromo-propoxy)-phenyl]-cyclohexanecarbonitrile and 1-[4-(3-chloro-propoxy)-phenyl]-cyclohexanecarbonitrile (150 mg, 0.54 mmol), N,N-diisopropylethylamine (187 μL, 1.07 mmol) and (2R,5S)-2,5-dimethylpyrrolidine (145 mg, 1.07 mmol) in NMP (0.5 mL) was heated at 160° C. in the microwave (Smith Personal Synthesiser) for 400 seconds then 170° C. for 600 seconds. The reaction mixture was quenched with NaHCO3 (15 mL) and extracted with ethyl acetate (2×15 mL), dried over Na2SO4, filtered and concentrated in vacuo. The compound was purified by column chromatography on Biotage® silica gel, eluting with dichloromethane:methanol:ammonia, 97:3:0.3 to 90:10:1. Yield=28% 1H NMR (400 MHz, CDCl3) δ7.36 (d, 2H), 6.92 (d, 2H), 4.10-4.04 (m, 2H), 4.00 (t, 2H), 3.88 (dt, 2H), 2.72 (t, 2H), 2.64-2.52 (m, 2H), 2.14-1.98 (m, 4H), 1.94 (pentet, 2H), 1.86-1.78 (m, 2H), 1.42-1.28 (m, 2H), 1.10 (d, 6H); HRMS (ESI+) 343.2380 (M+H)+.

reactant | 1-[4-(3-bromo-propoxy)-phenyl]-cyclohexanecarbonitrile | BrCCCOC1=CC=C(C=C1)C1(CCCCC1)C#N | C16H20BrNO
reactant | 1-[4-(3-chloro-propoxy)-phenyl]-cyclohexanecarbonitrile | 0.54 mmol, 150 mg | ClCCCOC1=CC=C(C=C1)C1(CCCCC1)C#N | C16H20ClNO
reactant | N,N-diisopropylethylamine | 1.07 mmol, 187 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2R,5S)-2,5-dimethylpyrrolidine | 1.07 mmol, 145 mg | C[C@H]1N[C@H](CC1)C | C6H13N
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | 4-(4-{3-[(2R,5S)-2,5-dimethylpyrrolidin-1-yl]propoxy}-phenyl)-tetrahydro-2H-pyran-4-carbonitrile | Yield=28% | C[C@H]1N([C@H](CC1)C)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C21H30N2O2
